US06767906B2
A one liter flask is charged with 25.5 g of 2chloro-6-(phenyl-amino)-purine (104 mmol), 16.7 g of K2CO3 (121 mmoles) and 500 ml of DMF. The mixture is stirred for one hour to solubilize K2CO3, followed by addition of ethyliodid (16.1 ml, 200 mmoles). The flask is stirred at RT for 2 hours under argon. Upon completion, the solvent is removed by evaporation under reduced pressure, and the remaining powder is extracted with 150 ml of ethyl acetate, washed with water (3×30 ml) and with 30 ml of a saturated NaCl soln. The aqueous layers are extracted with ethyl acetate (2×150 ml). The combined organic layers are dried (MgSO4), filtered and concentrated. The crude product is stirred with 100 ml of diethyl ether to give a crude yellow powder, which is filtered and dried at 50° C. under HV. 23.08 g (84 mmol, 81% yield) of 2-chloro-9-ethyl-6-(phenyl-amino)-9H-purine are obtained as a white crystalline powder. Rf=0.65 (CH2Cl2/MeOH (95/5); m.p. 158° C.; ESI-MS: 274 (M+H)+; 1H-NMR (d6-DMSO, 200 MHz, TMS): 1.4 ppm (t, 3H, J1=7 Hz, H1), 4.2 ppm (q, 2H, J1=7 Hz, H2), 7.1 ppm (t, 1H, J2=8 Hz, H7), 7.4 ppm (t, 2H, J2=8 Hz, H6), 7.85 ppm (d, 2H, J2=8 Hz, H5), 8.3 ppm (s, 1H, H3), 10.3 ppm (s, 1H, H4).

reactant | 2chloro-6-(phenyl-amino)-purine | 104 mmol, 25.5 g | ClC1=NC(=C2NC=NC2=N1)NC1=CC=CC=C1 | C11H8ClN5
reactant | K2CO3 | 121 mmoles, 16.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyliodid | 200 mmoles, 16.1 ml | C(C)I | C2H5I
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-chloro-9-ethyl-6-(phenyl-amino)-9H-purine | 84 mmol, 23.08 g, 81% yield | ClC1=NC(=C2N=CN(C2=N1)CC)NC1=CC=CC=C1 | C13H12ClN5
